US08044053B2
A solution of [5-(4-chloro-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazole-3-yl]methyl amine hydrochloride (391 mg, 1 mmol) was suspended in dry dichloromethane (10 mL), and diisopropylethylamine (323 mg, 0.25 mmol) was added. The reaction mixture was stirred at room temperature for 15 min. 2-Chloro-6-methyl-benzenesulfonyl chloride (225 mg, 1 mmol) was added and the reaction mixture was stirred at room temperature overnight. The solution was then washed with water, dried over anhydrous sodium sulfate and the solvent evaporated under reduced pressure to yield 2-chloro-N-[5-(4-Chloro-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazole-3-ylmethyl]-6-methyl-benzenesulfonamide which was purified by column chromatography using dichloromethane/methanol (98:2) (440 mg, 81% as a cream solid).

reactant | [5-(4-chloro-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazole-3-yl]methyl amine hydrochloride | 1 mmol, 391 mg | Cl.ClC1=CC=C(C=C1)C1CC(=NN1C1=C(C=C(C=C1)Cl)Cl)CN
reactant | diisopropylethylamine | 0.25 mmol, 323 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Chloro-6-methyl-benzenesulfonyl chloride | 1 mmol, 225 mg | ClC1=C(C(=CC=C1)C)S(=O)(=O)Cl | C7H6Cl2O2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-chloro-N-[5-(4-Chloro-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazole-3-ylmethyl]-6-methyl-benzenesulfonamide | ClC1=C(C(=CC=C1)C)S(=O)(=O)NCC1=NN(C(C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C23H19Cl4N3O2S
